US08114874B2
N-(3-Chloro-4-((4-methylpiperazin-1-yl)methyl)phenyl)-3-(imidazo[1,2-b]pyridazin-3-ylethynyl)-4-methylbenzamide
The title compound was synthesized according to Example 14, from 3-ethynylimidazo[1,2-b]pyridazine and N-(3-chloro-4-((4-methylpiperazin-1-yl)methyl)phenyl)-3-iodo-4-methylbenzamide. The product was obtained as a solid: 499 m/z (M+H).

reactant | 3-ethynylimidazo[1,2-b]pyridazine | C(#C)C1=CN=C2N1N=CC=C2 | C8H5N3
reactant | N-(3-chloro-4-((4-methylpiperazin-1-yl)methyl)phenyl)-3-iodo-4-methylbenzamide | ClC=1C=C(C=CC1CN1CCN(CC1)C)NC(C1=CC(=C(C=C1)C)I)=O | C20H23ClIN3O
product | N-(3-Chloro-4-((4-methylpiperazin-1-yl)methyl)phenyl)-3-(imidazo[1,2-b]pyridazin-3-ylethynyl)-4-methylbenzamide | ClC=1C=C(C=CC1CN1CCN(CC1)C)NC(C1=CC(=C(C=C1)C)C#CC1=CN=C2N1N=CC=C2)=O | C28H27ClN6O
